US06787536B2
2-(R)-{4-[5-(4-Fluorophenyl)pyridin-2-yloxy]piperidine1-sulfonylmethyl}-N-hydroxy-3-methylbutyramide
Prepared according to the method for the preparation of 2-(R)-{4-[5-(4-fluorophenyl)pyrimidin-2-yl]piperazine-1-sulfonylmethyl}-N-hydroxy-3-methyl-butyramide, from 2-(R)-{4-[5-(4-fluorophenyl)pyridin-2-yloxy]piperidine-1-sulfonyl-methyl}-3-methylbutyric acid (0.19 g), to give the title compound as a white solid (0.10 g, 53%)

reactant | 2-(R)-{4-[5-(4-fluorophenyl)pyrimidin-2-yl]piperazine-1-sulfonylmethyl}-N-hydroxy-3-methyl-butyramide | FC1=CC=C(C=C1)C=1C=NC(=NC1)N1CCN(CC1)S(=O)(=O)C[C@@H](C(=O)NO)C(C)C | C20H26FN5O4S
reactant | 2-(R)-{4-[5-(4-fluorophenyl)pyridin-2-yloxy]piperidine-1-sulfonyl-methyl}-3-methylbutyric acid | 0.19 g | FC1=CC=C(C=C1)C=1C=CC(=NC1)OC1CCN(CC1)S(=O)(=O)C[C@@H](C(=O)O)C(C)C | C22H27FN2O5S
product | 2-(R)-{4-[5-(4-Fluorophenyl)pyridin-2-yloxy]piperidine1-sulfonylmethyl}-N-hydroxy-3-methylbutyramide | 0.10 g, 53% | FC1=CC=C(C=C1)C=1C=CC(=NC1)OC1CCN(CC1)S(=O)(=O)C[C@@H](C(=O)NO)C(C)C | C22H28FN3O5S
